US05661163
A solution of bis(2-chloroethyl)-N-(1,1-dimethylethoxy)carbonyl amine (9.298 g, 38.4 mmol) and 2-chlorophenylacetonitrile (5.0 g, 32.0 mmol) in a 4:1 mixture of THF/DMF (15 mL) was treated with NaH (2.82 g, 70.4 mmol) at 60° C. (7 d). The solvent was removed in vacuo, the residue dissolved in EtOAc (200 ml) and washed with saturated NaHCO3 (50 ml), H2O (2×50 ml), and saturated aqueous NaCl (50 ml), dried (Na2SO4) and concentrated in vacuo. Trituration of the residue with 100% MeOH afforded 4-(2-chlorophenyl)-4-cyano-N-(1,1-dimethylethoxy) carbonyl piperidine as a white solid.

reactant | bis(2-chloroethyl)-N-(1,1-dimethylethoxy)carbonyl amine | 38.4 mmol, 9.298 g | ClCCN(C(=O)OC(C)(C)C)CCCl | C9H17Cl2NO2
reactant | 2-chlorophenylacetonitrile | 32.0 mmol, 5.0 g | ClC1=C(C=CC=C1)CC#N | C8H6ClN
reactant | NaH | 70.4 mmol, 2.82 g | [H-].[Na+]
solvent | THF DMF | 15 mL | C1CCOC1.CN(C)C=O
product | 4-(2-chlorophenyl)-4-cyano-N-(1,1-dimethylethoxy) carbonyl piperidine | ClC1=C(C=CC=C1)C1(CCN(CC1)C(=O)OC(C)(C)C)C#N | C17H21ClN2O2
